US04234595
Procedure 26C. 2-(3 -INDOLYL)-1,1-DIMETHYLETHYLAMINE
A mixture of gramine (120.0 g., 0.69 mole), 2-nitropropane (443 ml.), and NaOH (28.8 g., 0.72 mole) was stirred and gradually heated to reflux under N2. After a 6.5 hour reflux period, the reaction mixture was allowed to stand at room temperature overnight, and then diluted with 600 ml. of 10% aqueous AcOH. The mixture was extracted with 1.5 l of Et2O, and the organic layer washed with H2O (4×500 ml.). Concentration of the Et2O solution in vacuum gave an oil which was dissolved in 500 ml. of 95% EtOH. This solution was diluted with 300 ml. of H2O. (Seeding and scratching early in the dilution kept the product from oiling out). After cooling, the yellow solid was collected on a filter to give 105 g. (70%) of nitro intermediate, m.p. 72°-74°. The nitro compound was dissolved in 1.3 l of 95% EtOH, and Raney nickel (70 g., EtOH-washed) and added. The mixture was heated to reflux, and a solution of 85% hydrazine hydrate (116 g., 2.3 mole) in 95% EtOH (110 ml.) was added dropwise at a rate to maintain gentle reflux. The mixture was then heated at reflux for an additional 1.5 hours, cooled, and filtered. Concentration of the filtrate gave crude product as a solid. A solution of the solid in 400 ml. of EtOAC was diluted with 500 ml. of (i-Pr)2O and cooled. The white, cottony solid which separated was collected on a filter to give 91 g., (100%) of product, m.p. 122°-126°. It was used in Procedure 26A without further purification.

reactant | gramine | 0.69 mole, 120.0 g | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
reactant | 2-nitropropane | 443 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | NaOH | 0.72 mole, 28.8 g | [OH-].[Na+]
reactant | hydrazine hydrate | 2.3 mole, 116 g | O.NN
reactant | (i-Pr)2O | O(C(C)C)C(C)C | C6H14O
solvent | EtOH | 1.3 l | CCO | C2H6O
catalyst | Raney nickel | 70 g | [Ni] | Ni
solvent | EtOH | 110 ml | CCO | C2H6O
solvent | H2O | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 2-(3 -INDOLYL)-1,1-DIMETHYLETHYLAMINE | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
